US07153855B2
To a cold (0° C.) solution of N-[3-[2-(cyclopentylamino)pyrimidin-4-yl]-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-7-yl]butane-1,4-diamine (28 mg, 0.05 mmol) in dichloromethane (5 mL) was added triethylamine (0.1 mL) and p-tolylsulfonyl isocyanate (0.012 mL, 0.08 mmol). The resultant solution was stirred at 0° C. for 1 hour and saturated aqueous sodium bicarbonate was added. The organic layer was washed with brine. The aqueous layer was extracted with dichloromethane and the combined organics were dried over sodium sulfate. Filtration and concentration followed by flash chromatography (5% methanol in dichloromethane) and recrystallization from dichloromethane-ether provided N-{[(4-{[3-[2-(cyclopentylamino)pyrimidin-4-yl]-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-7-yl]amino}butyl)amino]carbonyl}-4-methylbenzenesulfonamide (14 mg, 35%) as a yellow solid. 1H NMR (CDCl3): δ 8.03 (m, 1 H), 7.84–7.76 (m, 3 H), 7.58 (d, 2 H), 7.36–7.26 (m, 5 H), 7.01 (d, 2 H), 6.66 (m, 1 H), 6.34 (m 1 H), 6.04 (m, 2 H), 4.36 (m, 1 H), 3.91 (s, 3 H), 3.38–3.30 (m, 4 H), 2.36 (s, 3 H), 2.07 (m, 2 H), 1.82–1.54 (m, 10 H); MS m/z 669 (M+1).

reactant | N-[3-[2-(cyclopentylamino)pyrimidin-4-yl]-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-7-yl]butane-1,4-diamine | 0.05 mmol, 28 mg | C1(CCCC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2NCCCCN)C2=CC=C(C=C2)OC | C27H33N7O
reactant | triethylamine | 0.1 mL | C(C)N(CC)CC | C6H15N
reactant | p-tolylsulfonyl isocyanate | 0.08 mmol, 0.012 mL | C1(=CC=C(C=C1)S(=O)(=O)N=C=O)C | C8H7NO3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-{[(4-{[3-[2-(cyclopentylamino)pyrimidin-4-yl]-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-7-yl]amino}butyl)amino]carbonyl}-4-methylbenzenesulfonamide | 14 mg, 35% | C1(CCCC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2NCCCCNC(=O)NS(=O)(=O)C2=CC=C(C=C2)C)C2=CC=C(C=C2)OC | C35H40N8O4S
